US06852830B2
Synthesis of (2,3-dihydro-thieno[3,4-b][1,4]dioxin-2-yl)-methanol
2-Hydroxymethyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine-5,7-dicarboxylic acid (48 g, 0.184 mol) was dissolved in N,N-dimethylacetamide (500 mL), and Cu2Cr2O7 (8.6 g) and quinoline (15 drops) were added. This mixture was subsequently stirred for 2 hours at 150° C., after which it was cooled to 25° C. It was then poured into ethyl acetate, the catalyst removed by filtration and the filtrate washed with acidic water and a saturated aqueous solution of sodium chloride. The solvent was then removed after which pure (2,3-dihydro-thieno[3,4-b][1,4]dioxin-2-yl)-methanol was isolated by vacuum distillation (115-120° C.; 0.05 mm Hg).

reactant | 2-Hydroxymethyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine-5,7-dicarboxylic acid | 0.184 mol, 48 g | OCC1COC=2C(O1)=C(SC2C(=O)O)C(=O)O | C9H8O7S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 500 mL | CN(C(C)=O)C | C4H9NO
catalyst | quinoline | 15 drops | N1=CC=CC2=CC=CC=C12 | C9H7N
product | (2,3-dihydro-thieno[3,4-b][1,4]dioxin-2-yl)-methanol | O1C=2C(OCC1CO)=CSC2 | C7H8O3S
